US08895571B2
Step A: methyl 4-(bromomethyl)-6-chloronicotinate
A mixture of methyl 6-chloro-4-methylnicotinate (2.50 g, 13.5 mmol), N-bromosuccinimide (2.88 g, 16.2 mmol) and benzoyl peroxide (0.14 g, 0.56 mmol) in carbon tetrachloride (100 mL) was refluxed under an atmosphere of nitrogen overnight. The mixture was cooled to room temperature, and filtered through a pad of celite. The mixture was concentrated. The residue was purified by combi-flash chromatography (ethyl acetate in hexanes: 30%) to afford the desired product.

reactant | methyl 6-chloro-4-methylnicotinate | 13.5 mmol, 2.50 g | ClC1=NC=C(C(=O)OC)C(=C1)C | C8H8ClNO2
reactant | N-bromosuccinimide | 16.2 mmol, 2.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.56 mmol, 0.14 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-(bromomethyl)-6-chloronicotinate | BrCC1=CC(=NC=C1C(=O)OC)Cl | C8H7BrClNO2
